US06852731B2
N-(4-chlorobenzyl)-2-{[[2-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-hydroxyethyl](methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
A mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (100 mg, 0.253 mmol), 1-(1,4-benzodioxan-6-yl)-2-(methylamino)ethanol (Preparation 13, 79 mg, 0.38 mmol), and diisopropylethylamine (66 μL, 0.38 mmol) in dry DMF (5.5 mL) was stirred at room temperature for 18 hours. The solution was then diluted with water (20 mL). The resulting precipitate was collected by filtration and the collected solid was dried in vacuo at 60° C. to provide the titled compound (105 mg) as an off white solid.

reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.253 mmol, 100 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CCl)C)=O)C=C1 | C18H16Cl2N2O2S
reactant | 1-(1,4-benzodioxan-6-yl)-2-(methylamino)ethanol | 0.38 mmol, 79 mg | O1CCOC2=C1C=CC(=C2)C(CNC)O | C11H15NO3
reactant | diisopropylethylamine | 0.38 mmol, 66 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | N-(4-chlorobenzyl)-2-{[[2-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-hydroxyethyl](methyl)amino]methyl}-3,4-dimethyl-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 105 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)C(=C(S3)CN(C)CC(O)C3=CC2=C(OCCO2)C=C3)C)=O)C=C1 | C29H30ClN3O5S
